US05354880
Unsuccessful Preparation of 1,1-Dimethoxysila-2-azacyclopentane
The procedure of Example 1 was repeated, except that 3-aminopropyltrimethoxysilane (113.5 grams; 0.63 moles) was used. Sodium methoxide (2.3 grams, 2 wt.%) was added. The reaction mixture was stirred and heated to 90° C. to 98° C. for 6 hours at 4-8 mm Hg, while slowly removing distillate. However gas chromatographic analysis indicated 1,1-dimethoxysila-2-azacyclopentane was not formed. The distillate consisted of >99% 3-aminopropyltrimethoxysilane. The reaction mixture was further heated to 130° C. (>10 mm Hg) but distillate analysis again indicated no five-membered ring cyclosilazane product was formed.

reactant | 3-aminopropyltrimethoxysilane | 0.63 moles, 113.5 grams | NCCC[Si](OC)(OC)OC | C6H17NO3Si
reactant | Sodium methoxide | 2.3 grams | C[O-].[Na+]
product | 1,1-Dimethoxysila-2-azacyclopentane | CO[Si]1(NCCC1)OC | C5H13NO2Si
